US06303818B1
To a 100ml reaction bottle equipped with magnetic stir bar was charged 5.0 g (35.2 mmole) of 2,6-difluorobenzaldehyde in 20 ml acetone and to this was added 3.4 g of 50% aqueous NaOH (42 mmole) in 60 ml water (exothermic) and stirred at room temperature. The reaction was monitored by GLC and after 2 hours the reaction was worked up. The reaction mixture was extracted with 50 ml CHCl3, washed with 50 ml H2O, dried over anhydrous MgSO4, filtered, and the solvent removed in vacuuo on a rotary evaporator to afford 5.7 g of trans-4-(2,6-difluorophenyl)-3-buten-2-one as a yellow oil in 81% purity by GC. and 89.5% isolated yield.

reactant | 2,6-difluorobenzaldehyde | 35.2 mmole, 5.0 g | FC1=C(C=O)C(=CC=C1)F | C7H4F2O
reactant | NaOH | 42 mmole, 3.4 g | [OH-].[Na+]
reactant | acetone | 20 ml | CC(=O)C | C3H6O
solvent | water | 60 ml | O | H2O
product | trans-4-(2,6-difluorophenyl)-3-buten-2-one | 5.7 g | FC1=C(C(=CC=C1)F)/C=C/C(C)=O | C10H8F2O
